US06492416B1
To a stirred solution of 2-ethyl-4-iodo-2-methy-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone (200 mg) in 15 ml toluene and 5 ml ethanol, were added 34 mg of tetrakis(triphenylphosphine)palladium(0), 5 ml of 2M aqueous sodium carbonate solution and 120 mg of 4-acetylbenzeneboronic acid. Then the reaction solution was stirred at 95° C. for 12 hours. The reaction solvent was evaporated off under reduced pressure and the resulting residue was extracted with 50 ml water and dichloromethane (30 ml×3). Then the organic layer was concentrated in vacuo and the resulting crude product was purified by column chromatography (hexane/ethylacetate) to afford 120 mg of 4-(4-acetylphenyl)-2-ethyl-2-methyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone as a solid. mp: 147-148° C. NMR: δ0.97 (t, J=7.5 Hz, 3H), 1.56 (s, 3H), 1.99 (m, 2H), 2.62 (s, 3H), 3.08 (s, 3H), 7.39 (d, J=8.7 Hz, 2H), 7.83 (d, J=8.7 Hz, 2H), 7.97 (m, 2H). IR (cm−1): 2929, 1684, 1410, 1317, 1149, 1016, 769, 552.

reactant | 2-ethyl-4-iodo-2-methy-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 200 mg | C(C)C1(OC(=C(C1=O)I)C1=CC=C(C=C1)S(=O)(=O)C)C | C14H15IO4S
reactant | sodium carbonate | 2M, 5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-acetylbenzeneboronic acid | 120 mg | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 34 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-acetylphenyl)-2-ethyl-2-methyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 120 mg | C(C)(=O)C1=CC=C(C=C1)C=1C(C(OC1C1=CC=C(C=C1)S(=O)(=O)C)(C)CC)=O | C22H22O5S
